US07612099B2
2-{[3-(2-Amino-2-methyl-propyl)-6-chloro-1H-indol-2-yl]-phenyl-methyl}-3-hydroxy-4-phenyl-cyclopent-2-enone
Using general procedure C, 3-hydroxy-4-phenyl-cyclopent-2-enone (Lit. 17) was reacted with benzaldehyde and 2-(6-chloro-1H-indol-3-yl)-1,1-dimethyl-ethylamine (prepared in analogy to Lit. 9) to give the title compound as a pale yellow solid. MS: 485.4 ([M+H]+).

reactant | 3-hydroxy-4-phenyl-cyclopent-2-enone | OC1=CC(CC1C1=CC=CC=C1)=O | C11H10O2
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | 2-(6-chloro-1H-indol-3-yl)-1,1-dimethyl-ethylamine | ClC1=CC=C2C(=CNC2=C1)CC(C)(C)N | C12H15ClN2
product | 2-{[3-(2-Amino-2-methyl-propyl)-6-chloro-1H-indol-2-yl]-phenyl-methyl}-3-hydroxy-4-phenyl-cyclopent-2-enone | NC(CC1=C(NC2=CC(=CC=C12)Cl)C(C=1C(CC(C1O)C1=CC=CC=C1)=O)C1=CC=CC=C1)(C)C | C30H29ClN2O2
